US04153607
7 parts of 30 percent strength by weight hydrogen peroxide are added to 12.8 parts of 2-phenyl-4-amino-5-thiocarbamoylthiazole in 150 parts of methanol. The mixture is stirred for 12 hours at 22° C. and the product is then filtered off. 7.9 parts of 3-amino-5-phenyl-thiazolo-(4,5-c)-isothiazole (62% of theory) of melting point 176°-179° C. are obtained.

reactant | hydrogen peroxide | OO | H2O2
reactant | 2-phenyl-4-amino-5-thiocarbamoylthiazole | C1(=CC=CC=C1)C=1SC(=C(N1)N)C(N)=S | C10H9N3S2
solvent | methanol | CO | CH4O
product | 3-amino-5-phenyl-thiazolo-(4,5-c)-isothiazole | 62% | NC1=C2C(=NS1)N=C(S2)C2=CC=CC=C2 | C10H7N3S2
